US07005432B2
7-Amino-2-nitro-naphthalene
A suspension of 2,7-dinitro-naphthalene in ethylacetate (400 ml) and DMF (4 ml) was hydrogenated over P/C at 50° C. for 2 hours. After work-up and purification by chromatography 2.1 g (11.2 mmol, 24%) of the title compound, MS: m/e=251(M+) was obtained.

reactant | 2,7-dinitro-naphthalene | [N+](=O)([O-])C1=CC2=CC(=CC=C2C=C1)[N+](=O)[O-] | C10H6N2O4
solvent | ethylacetate | 400 ml | C(C)OC(C)=O | C4H8O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | 7-Amino-2-nitro-naphthalene | 11.2 mmol, 2.1 g, 24% | NC1=CC=C2C=CC(=CC2=C1)[N+](=O)[O-] | C10H8N2O2
